US07550459B2
To 4-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester (480 mg, 2.1 mmol) dissolved in dry DMF (10 ml) was added NaH (120 mg, 3.0 mmol, 55-65% in mineral oil) and the mixture was warmed to 60° C. for 2 h. The mixture was allowed to cool to rt and then pivaloyl chloride (0.1.6 ml, 1.3 mmol) was added. The reaction was allowed to stir over night and then poured into water and the mixture was extracted with ether. The combined organic phases were washed with brine, dried (Na2SO4), filtered, and concentrated under reduced pressure. The oily residue was purified by Flash column chromatography (SiO2; heptane/EtOAc 70:30) to yield 4-[2-(2,2-dimethylpropionyloxy)ethyl]-piperidine-1-carboxylic acid tert-butyl ester as an oil, which was deprotected in CH2Cl2/TFA, employing the standard procedure. This yielded the crude title compound as an oil (94 mg, 0.44 mmol, 34%), which was used without further purification.

reactant | 4-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester | 2.1 mmol, 480 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | NaH | 3.0 mmol, 120 mg | [H-].[Na+]
reactant | pivaloyl chloride | 1.3 mmol | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-[2-(2,2-dimethylpropionyloxy)ethyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC(C(C)(C)C)=O | C17H31NO4
